US06727264B1
N-{3-[1-((3S)-3-{[(3,5-DIMETHYL-4-ISOXAZOLYL)SULFONYL]AMINO}-3-PHENYLPROPYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE:
Prepared by Procedure Q1 and Scheme AC using 3,5-dimethyl-4-isoxazolesulfonyl chloride and N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide: 1H NMR (400 MHz, CDCl3) δ 7.53 (s, 2H), 7.3-7.1 (m, 5H), 7.05 (t, 2H, J=6.5 Hz), 6.81 (d, 1H, J=7.1 Hz), 4.65 (dd, 1H, J=6.3, 2.2 Hz), 3.11 (t, 2H, J=7.2 Hz), 2.4 (m, 4H), 2.2 (s, 3H), 2.05 (m, 2H), 2.01 (s, 3H), 2.0-1.8 (m, 7H), 1.21 (d, 6H, J=7.1 Hz); ESMS m/e: 539.5 (M+H)+.

reactant | 3,5-dimethyl-4-isoxazolesulfonyl chloride | CC1=NOC(=C1S(=O)(=O)Cl)C | C5H6ClNO3S
reactant | N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide | N[C@@H](CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C24H33N3O
product | N-{3-[1-((3S)-3-{[(3,5-DIMETHYL-4-ISOXAZOLYL)SULFONYL]AMINO}-3-PHENYLPROPYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE | CC1=NOC(=C1S(=O)(=O)N[C@@H](CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1)C | C29H38N4O4S
